US04945098
1-Octadecylaminocarbonyloxy-3-[6-(1-pyridinio)hexanoyloxy]-2-ethylidenepropane bromide
Following the procedure described in Example 6, but replacing 1-octadecylaminocarbonyloxy-3-(6-bromohexanoyloxy)-2-methylenepropane with an approx. 1:1 mixture of E- and Z-isomers of 1-octadecylaminocarbonyloxy-3-(6-bromohexanoyloxy)-2-ethylidenepropane (from Preparation 29), an approx. 1:1 mixture of E- and Z-isomers of the desired compound is obtained.

reactant | 1-octadecylaminocarbonyloxy-3-(6-bromohexanoyloxy)-2-methylenepropane | C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(CCCCCBr)=O)=C | C29H54BrNO4
reactant | 1-octadecylaminocarbonyloxy-3-(6-bromohexanoyloxy)-2-ethylidenepropane | C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(CCCCCBr)=O)=CC | C30H56BrNO4
product | 1-Octadecylaminocarbonyloxy-3-[6-(1-pyridinio)hexanoyloxy]-2-ethylidenepropane bromide | [Br-].C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(CCCCC[N+]1=CC=CC=C1)=O)=CC | InChI=1S/C35H60N2O4.BrH/c1-3-5-6-7-8-9-10-11-12-13-14-15-16-17-18-22-27-36-35(39)41-32-33(4-2)31-40-34(38)26-21-19-23-28-37-29-24-20-25-30-37;/h4,20,24-25,29-30H,3,5-19,21-23,26-28,31-32H2,1-2H3;1H
